US05481038
2-(Diisopropylamino)propionitrile
Anhydrous magnesium sulfate (12.04 g, 0.1 mol) was added to diisopropylamine (12.14 g, 0.12 mol), followed by lactonitrile (7.73 g of 92% aqueous solution, 0.1 mol) added all at once with stirring. The reaction mixture spontaneously warmed up to 51° C. It was left overnight at room temperature. Diethyl ether (50 ml) was added, and magnesium sulfate was filtered off and washed with ether (50 ml). The product was isolated by distillation, 11.57 g, 75% yield, bp 49°-50° C./0.1 mm Hg. 1H NMR CDCl3 δ ppm, 1.02 (d, J=6.5 Hz, 6H, CH3), 1.17 (d, J=6.5 Hz, 6H, CH3), 1.41 (d, J=6.5 Hz, 3H, CH3, 3.21 (sep, J=6.5 Hz, 2H,=CH) , 3.89 (q, J=6.5 Hz, 1H, CH) .

reactant | magnesium sulfate | 0.1 mol, 12.04 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | diisopropylamine | 0.12 mol, 12.14 g | C(C)(C)NC(C)C | C6H15N
reactant | lactonitrile | 0.1 mol, 7.73 g | C(C(O)C)#N | C3H5NO
solvent | Diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(Diisopropylamino)propionitrile | 75% yield | C(C)(C)N(C(C#N)C)C(C)C | C9H18N2
